US08530521B2
Step C: (1RS,3RS,4RS)-3-fluoro-4-(nitrooxy)cyclopentanecarboxylic acid
The title compound was prepared by following step D for example 1, except that the reagent (+)-methyl (1R,3S,4S)-3-methoxy-4-(nitrooxy)cyclopentanecarboxylate was replaced by methyl (1RS,3RS,4RS)-3-fluoro-4-(nitrooxy)cyclopentanecarboxylate. 1H NMR (500 MHz, CDCl3) δ 2.13-2.52 (m, 1H), 2.30-2.52 (m, 2H), 2.61-2.69 (m, 1H), 3.16 (m, 1H), 5.10 (m, 1H), 5.47 (m, 1H).

reactant | (+)-methyl (1R,3S,4S)-3-methoxy-4-(nitrooxy)cyclopentanecarboxylate | CO[C@H]1C[C@H](C[C@@H]1O[N+](=O)[O-])C(=O)OC | C8H13NO6
reactant | methyl (1RS,3RS,4RS)-3-fluoro-4-(nitrooxy)cyclopentanecarboxylate | FC1CC(CC1O[N+](=O)[O-])C(=O)OC | C7H10FNO5
product | (1RS,3RS,4RS)-3-fluoro-4-(nitrooxy)cyclopentanecarboxylic acid | FC1CC(CC1O[N+](=O)[O-])C(=O)O | C6H8FNO5
